### PR TITLE
Template operators

### PR DESCRIPTION
**Pull request by gmalecha-at-skylabs**
This fixes a number of issues that arise in template ASTs.

- Bug fix for printing of Bor and Band in notation
- **Templates** Support for unresolved `,`, `&&`, and `||` operators -- these almost never occur in practice
- **Templates** Support for `template`-`template` parameters
- **Templates** Support for unresolved string literals, e.g. `func` inside of a template definition
- **Templates** Support for unresolved arrows
- **Templates** Dependent `case` statements (not fully supported, but no longer result in a crash)
- **Templates** Improvements for typing information
- **Templates** Support unresolved initlist expressions
- Promote `compile_commands.json` for better editing support
- Type checker improvements

### CODE REVIEW

File: rocq-skylabs-brick/theories/lang/cpp/syntax/core.v [hunk 1]
```diff
@@ -67,29 +67,53 @@ End function_type.
...
+    try (right; congruence).
+  - destruct (decide (i = j)) as [->|?]; [left; reflexivity|right; congruence].
+  - destruct (decide (i = j)) as [->|?];
+      destruct (decide (t = u)) as [->|?];
+      try (left; reflexivity); right; congruence.
+  - destruct (decide (i = j)) as [->|?];
+      destruct (@list_eq_dec _ IH ps qs) as [->|?];
+      try (left; reflexivity); right; congruence.
+  - destruct (decide (msg = msg')) as [->|?]; [left; reflexivity|right; congruence].
+Defined.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/core.v]: See if this can be improved.

Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/core.v]: For Paolo: Compare with `solve_decision` working in this code with recursive instances:
```
Lemma vl_eq_dec v1 v2   : Decision (v1 = v2)
with  tm_eq_dec t1 t2   : Decision (t1 = t2)
with  dm_eq_dec d1 d2   : Decision (d1 = d2)
with  path_eq_dec p1 p2 : Decision (p1 = p2)
with  ty_eq_dec T1 T2   : Decision (T1 = T2)
with  kind_eq_dec K1 K2 : Decision (K1 = K2).
Proof.
  all: pose vl_eq_dec' : EqDecision vl := vl_eq_dec;
    pose dm_eq_dec' : EqDecision dm := dm_eq_dec;
    rewrite /Decision; decide equality; solve_decision.
Defined.
```

File: rocq-skylabs-cpp2v/src/PrintStmt.cpp [hunk 2]
```diff
@@ -203,23 +203,39 @@ class PrintStmt : public ConstStmtVisitor<PrintStmt, void, CoqPrinter &,
...
-            auto hi = rhs->EvaluateKnownConstInt(ctxt);
-            guard::ctor _(print, "Range");
+        llvm::APSInt lo, hi;
+        auto rhs = stmt->getRHS();
+        if (!constexprEvalInt(*stmt->getLHS(), ctxt, lo) ||
+            (rhs && !constexprEvalInt(*rhs, ctxt, hi))) {
+            // not evaluatable
+            guard::ctor _{print, "Sunsupported"};
+            print.str("unsupported (dependent) case label");
+        } else if (rhs) {
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-cpp2v/src/PrintStmt.cpp:227]: Make a test case for this:

```c++
template<int n>
void test() {
  switch (1) {
  case n: ...
   ...
  }
}
```

File: rocq-skylabs-cpp2v/src/PrintExpr.cpp [hunk 3]
```diff
@@ -1556,11 +1563,59 @@ class PrintExpr : public ConstStmtVisitor<PrintExpr, void> {
...
+                    always_assert(field && "uncaptured field");
+                    return field->getType();
+                } else if (capture.capturesThis()) {
+                    always_assert(ThisCapture && "this capture is null");
+                    return ThisCapture->getType();
+                } else if (capture.capturesVLAType()) {
+                    //
+                    always_assert(
+                        false &&
+                        "variable length array captures are not supported");
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-cpp2v/src/PrintExpr.cpp]: Output `Eunsupported`.

File: rocq-skylabs-cpp2v/src/PrintExpr.cpp [hunk 4]
```diff
@@ -1251,6 +1251,13 @@ class PrintExpr : public ConstStmtVisitor<PrintExpr, void> {
             // and are retained in the clang AST only for printing purposes.
             always_assert(expr->inits().size() == 1);
             cprint.printExpr(print, expr->getInit(0), names);
+        } else if (expr->getType()->isVoidType()) {
+            print.ctor("Eunresolved_initlist");
+            print.none();
+            print.output() << fmt::nbsp;
+            print.list(expr->inits(),
+                       [&](auto i) { cprint.printExpr(print, i, names); });
+            print.end_ctor();
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-cpp2v/src/PrintExpr.cpp:1296]: Confirm that this is tested.

File: rocq-skylabs-brick/theories/lang/cpp/syntax/typed.v [hunk 5]
```diff
@@ -330,6 +330,7 @@ Module decltype.
         in
         trace (Can_initialize dt t) $
           match drop_qualifiers dt , drop_qualifiers t with
+          | Tauto , _ => mret () (* anything can initialize <auto> *)
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/typed.v]: We should make this conditional on whether we are doing template or non-template typechecking. But we can just have a TODO for now.

**Review by pgiarrusso-sl — APPROVED** [review]
